US06727264B1
N-(3-{1-[4-(3,4-DIMETHYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure K and Scheme B1 using 4-chloro-1-(3,4-dimethylphenyl)-1-butanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 419.2 (M+H)+.

reactant | 4-chloro-1-(3,4-dimethylphenyl)-1-butanone | ClCCCC(=O)C1=CC(=C(C=C1)C)C | C12H15ClO
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[4-(3,4-DIMETHYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | CC=1C=C(C=CC1C)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)=O | C27H34N2O2
